US04568694
A mixture of N-methylsulphonyl-bis(methylthio)methanimine (188 g) and ethanol (760 ml) was stirred and warmed to 53° C. and the resulting solution was treated dropwise at 45° C. with a solution of methylamine in ethanol (33% w/w; 115 ml) during 2 hours. The solution was then stirred at room temperature for 7 hours and allowed to stand overnight. The solution was concentrated in vacuo to low volume and crystallised from cold ethanol, to give N-methyl-N'-methylsulphonyl-S-methylisothiourea (162 g), m.p. 88°-91° C.

reactant | N-methylsulphonyl-bis(methylthio)methanimine | 188 g | CS(=O)(=O)N=C(SC)SC | C4H9NO2S3
reactant | methylamine | CN | CH5N
solvent | ethanol | 115 ml | C(C)O | C2H6O
solvent | ethanol | 760 ml | C(C)O | C2H6O
product | N-methyl-N'-methylsulphonyl-S-methylisothiourea | 162 g | CNC(SC)=NS(=O)(=O)C | C4H10N2O2S2
